US06599925B2
2-({6-[3-(2-Cyclopentylacetyl)-1-benzofuran-2-yl]-2-naphthyl}oxy)acetic acid
Following the procedure described in Step 4 of Example 6, ethyl 2-({6-[3-(2-cyclopentylacetyl)-1-benzofuran-2-yl]-2-naphthyl}oxy)acetate (0.324 g, 0.710 mmol), was hydrolyzed with potassium hydroxide (0.120 g, 2.14 mmol) in THF (5 mL) and water (5 mL). Crystallization from acetonitrile yielded the title compound as a cream-colored solid (0.179 g), mp 177-178° C. Mass spectrum (−ESI, [M−H]−) m/z 427; 1HNMR (500 MHz, DMSO-d6): δ12.9-13.4 (br s, 1H), 8.35 (d, 1H, J=1.1 Hz), 7.95-8.05 (m, 3H), 7.8 (dd, 1H, J=8.5 and 1.8 Hz), 7.7 (d, 1H, J=7.6 Hz), 7.4-7.45 (m, 3H), 7.3 (dd, 1H, J=8.9 Hz and 2.5 Hz), 4.85 (s, 2H), 2.75 (d, 2H, J=7.0 Hz), 2.15-2.25 (m, 1H), 1.6-1.65 (m, 2H), 1.35-1.45 (m, 4H), and 0.95-1.0 ppm (m, 2H). Elemental Analysis for C27H24O5: Calculated: C, 75.68; H, 5.65; N, 0.00. Found: C, 75.38; H, 5.46; N, 0.02.

reactant | ethyl 2-({6-[3-(2-cyclopentylacetyl)-1-benzofuran-2-yl]-2-naphthyl}oxy)acetate | 0.710 mmol, 0.324 g | C1(CCCC1)CC(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)OCC | C29H28O5
reactant | potassium hydroxide | 2.14 mmol, 0.120 g | [OH-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-({6-[3-(2-Cyclopentylacetyl)-1-benzofuran-2-yl]-2-naphthyl}oxy)acetic acid | 0.179 g | C1(CCCC1)CC(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)O | C27H24O5
